US07511067B2
b) 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-{3-[3-(4-methoxy-phenyl)-imidazol-1-yl]-1,1-dimethyl-propylamino}-ethanol
13 g of methyl 2-benzyloxy-5-(1-hydroxy-2-{3-[3-(4-methoxy-phenyl)-imidazol-1-yl]-1,1-dimethyl-propylamino}-ethyl)-benzoate in 100 mL tetrahydrofuran are reacted with a solution of 6.5 g of calcium chloride in 65 mL ethanol and 4.5 g of sodium borohydride analogously to the method used for Example 1c. After a reaction time of 12 hours, 3 g of calcium chloride, dissolved in 30 mL ethanol, and 2 g of sodium borohydride are added and stirring is continued for a further 12 hours. Then the mixture is worked up as described, except that extraction is carried out using chloroform rather than ethyl acetate. During the evaporation of this organic phase a solid is precipitated out. The solid is suction filtered, stirred with ethyl acetate and recrystallised from acetonitrile. Yield: 79.5 g (77%); m.p.=108-111° C.

reactant | methyl 2-benzyloxy-5-(1-hydroxy-2-{3-[3-(4-methoxy-phenyl)-imidazol-1-yl]-1,1-dimethyl-propylamino}-ethyl)-benzoate | 13 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(CNC(CCN1CN(C=C1)C1=CC=C(C=C1)OC)(C)C)O | C32H39N3O5
reactant | calcium chloride | 6.5 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 4.5 g | [BH4-].[Na+]
reactant | calcium chloride | 3 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethanol | 65 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-{3-[3-(4-methoxy-phenyl)-imidazol-1-yl]-1,1-dimethyl-propylamino}-ethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC(CCN1CN(C=C1)C1=CC=C(C=C1)OC)(C)C)O)CO | C31H39N3O4
